US04435396
A mixture of 132.3 g (0.80 m) of 2-bromo-1-hydroxy-3-oxo-1-butene, 120.1 g (2.0 m) of urea, and 1.85 l of acetone was heated at reflux with overhead stirring for one hour. The mixture was concentrated and the oil residue was taken up into 600 ml of water, then made basic with concentrated ammonium hydroxide. After sitting at room temperature for 0.5 hour, a precipitate formed. This was collected, and dried in vacuo to give 61.1 g of crude product. The filtrate was again concentrated and the oil residue taken up in 50 ml of water and again made basic with concentrated ammonium hydroxide. After sitting overnight a second crop of crude product, amounting to 17.6 g was isolated. Both crops were combined and recrystallized from methanol to give 50.3 g (50%) of 5-acetyl-2-aminooxazole, m.p. 214°-215°.

reactant | 2-bromo-1-hydroxy-3-oxo-1-butene | 132.3 g | BrC(=CO)C(C)=O | C4H5BrO2
reactant | urea | 120.1 g | NC(=O)N | CH4N2O
solvent | acetone | 1.85 l | CC(=O)C | C3H6O
product | 5-acetyl-2-aminooxazole | 50.3 g, 50% | C(C)(=O)C1=CN=C(O1)N | C5H6N2O2
